US07498323B2
benzyl 4-methylene-1-piperidinecarboxylate
A sodium hydride (13.2 g) was added to an anhydrous dimethylsulfoxide (176 mL) and the mixture was heated for 2 hours at 60° C. After cooling, to a suspension of methyltriphenylphosphonium bromide (110.4 g) in dimethylsulfoxide (120 mL) was added the reaction mixture, and the mixture was stirred for 30 minutes at room temperature. To the reaction mixture was added a solution of benzyl 4-oxo-1-piperidinecarboxylate (60 g) in dimethylsulfoxide (150 mL), the mixture was stirred for 1 hour at 50° C. After cooling, to the mixture was added water (2.5 L) and the mixture was extracted with ethyl acetate (1.5 L). The organic layer was washed with a saturated aqueous solution of ammonium chloride (0.5 L) and a saturated aqueous solution of sodium chloride (0.5 L), dried and then concentrated. The obtained residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate:chloroform=9:1:1) to give the title compound (51.1 g) having the following physical data.

reactant | sodium hydride | 13.2 g | [H-].[Na+]
reactant | benzyl 4-oxo-1-piperidinecarboxylate | 60 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | water | 2.5 L | O | H2O
reactant | dimethylsulfoxide | 120 mL | CS(=O)C | C2H6OS
reactant | dimethylsulfoxide | 150 mL | CS(=O)C | C2H6OS
reactant | dimethylsulfoxide | 176 mL | CS(=O)C | C2H6OS
catalyst | methyltriphenylphosphonium bromide | 110.4 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | benzyl 4-methylene-1-piperidinecarboxylate | 51.1 g | C=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H17NO2
